* C:\Users\walto\Desktop\School\2021-Fall\COMPE-496B\senior_design\LTSpice\Filters\12V5_lowinput\12Vlowinput.asc
V1 +12V 0 12V
R1 N007 N008 75k
C1 N008 0 680p
XU2 N005 N002 +12V -12V N002 LF347
XU3 N006 N004 +12V -12V N004 LF347
R2 N001 N008 31.6k
R3 N005 N001 22.1k
R4 N003 N002 10.7k
R5 N006 N003 34.8k
C2 N002 N001 680p
C3 N004 N003 2.2n
C4 0 N005 220p
C5 0 N006 150p
R8 N008 0 25.5k
V4 0 -12V 12V
V5 N007 0 SINE(6 6 100) AC 1V
.ac dec 100 0.1 50k
.lib C:\Users\walto\Desktop\School\2021-Fall\COMPE-496B\senior_design\LTSpice\LF347.301
.backanno
.end
